US07868014B2
Dissolve (S)-(2,4-dichlorobenzyl)-[1-(5-iodopyridin-2-yl)-pyrrolidin-3-yl]-amine hydrochloride (250 mg, 0.52 mmol) in dichloromethane (15 mL) and triethylamine (10 mL). Add trans-dichlorobis(triphenylphosphine)palladium (II) (24 mg, 0.034 mmol), copper (I) iodide (6 mg, 0.032 mmol) and (trimethylsilyl)acetylene (370 μL, 2.62 mmol). Stir the mixture at room temperature for 1 h, filter through a pad of Celite®, concentrate and chromatograph on silica gel, eluting with a gradient of 20:80 to 1:1 ethyl acetate:hexanes, to give (S)-(2,4-dichlorobenzyl)-[1-(5-trimethylsilanylethynyl-pyridin-2-yl)-pyrrolidin-3-yl]-amine as a yellow oil (190 mg, 88%). MS (ES): m/z=418 [M+H].

reactant | (S)-(2,4-dichlorobenzyl)-[1-(5-iodopyridin-2-yl)-pyrrolidin-3-yl]-amine hydrochloride | 0.52 mmol, 250 mg | Cl.ClC1=C(CN[C@@H]2CN(CC2)C2=NC=C(C=C2)I)C=CC(=C1)Cl
reactant | (trimethylsilyl)acetylene | 2.62 mmol, 370 μL | C[Si](C)(C)C#C | C5H10Si
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.034 mmol, 24 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.032 mmol, 6 mg | [Cu]I
product | (S)-(2,4-dichlorobenzyl)-[1-(5-trimethylsilanylethynyl-pyridin-2-yl)-pyrrolidin-3-yl]-amine | 190 mg, 88% | ClC1=C(CN[C@@H]2CN(CC2)C2=NC=C(C=C2)C#C[Si](C)(C)C)C=CC(=C1)Cl | C21H25Cl2N3Si
